* source 1_6
.EXTERNAL OUTPUT output
X_U2         HIGH CLK 0 N17067 HIGH 0 0 HIGH M_UN0001 M_UN0002 M_UN0003 N17087
+  N17067 M_UN0004 $G_DPWR $G_DGND 74193 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
C_C1         0 N17079  1n  TC=0,0 
V_V2         0 HIGH 5Vdc
X_U4         N17087 N17091  $G_DPWR $G_DGND INV
R_R1         N17075 N16925  1k TC=0,0 
X_U3         0 N17079 OUTPUT N17091 N17373 N17079 N17075 N16925 555B
U_DSTM2         STIM(1,1)
+ $G_DPWR $G_DGND
+ CLK 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 0.5us 1  
+ 0.5us 0  
+ 0.5us 1 
+ 0.5us 0  
V_Vs         N16925 0 0Vdc
R_R2         N17079 N17075  1k TC=0,0 
R_R3         0 N17373  1e100 TC=0,0 
