* source 1_6
X_U2         N16985 M_UN0001 M_UN0002 0 0 0 0 0 N19807 M_UN0003 M_UN0004
+  M_UN0005 M_UN0006 M_UN0007 $G_DPWR $G_DGND 74193 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
C_C1         0 N17079  1n  TC=0,0 
R_R1         N17075 N16925  1k TC=0,0 
X_U3         0 N17079 N16985 N19432 N17373 N17079 N17075 N16925 555B
V_Vs         N16925 0 5Vdc
R_R2         N17079 N17075  1k TC=0,0 
R_R3         0 N17373  1e100 TC=0,0 
V_V1         HIGH 0 5Vdc
U_DSTM1         STIM(1,1) $G_DPWR $G_DGND CLK IO_STM IO_LEVEL=0 
+ 0 0
+ +.5uS 1
+REPEAT FOREVER
+ +.5uS 0
+  +.5uS 1
+ ENDREPEAT
